US09212150B2
To a magnetically stirred solution of methyl 4-formylbenzoate (1.71 g, 10.41 mmoL) dissolved in EtOH (mL) was added (4-(trifluoromethoxy)phenyl)-hydrazine hydrochloride (2 g, 10.41 mmoL) and the reaction was stirred at room temperature overnight. The solvent was concentrated under reduced pressure and dried under high vacuum to give (E)-methyl 4-((2-(4-(trifluoromethoxy)phenyl)-hydrazono)methyl)benzoate (3.08 g, 87%): mp 142-145° C.; 1H NMR (400 MHz, CDCl3) δ 10.10 (s, 1H), 8.04 (d, J=8.0 Hz, 2H), 7.72-7.65 (m, 3H), 7.13 (q, J=8.9 Hz, 4H), 3.93 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −58.36; ESIMS m/z 338 ([M+H])+.

reactant | methyl 4-formylbenzoate | 1.71 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | (4-(trifluoromethoxy)phenyl)-hydrazine hydrochloride | 2 g | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
solvent | EtOH | CCO | C2H6O
product | (E)-methyl 4-((2-(4-(trifluoromethoxy)phenyl)-hydrazono)methyl)benzoate | 3.08 g, 87% | FC(OC1=CC=C(C=C1)N\N=C\C1=CC=C(C(=O)OC)C=C1)(F)F | C16H13F3N2O3
